US06331553B1
Synthesis of 2-(3-(di-(t-butoxycarbonyl)aminomethyl)phenylamino)-6-methoxypyridine
A mixture of 3-(di-(t-butoxycarbonyl)aminomethyl)aniline (50 mg), tetrakistriphenylphosphine palladium (18 mg), potassium carbonate (24 mg), 2-chloro-6-methoxypyridine (25 mg) and toluene (3 ml) was heated under reflux under nitrogen atmosphere for 16 h and, thereafter, ethyl acetate and water were added. The organic layer was washed with a saturated aqueous sodium chloride solution, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent, ethyl acetate:hexane=1:4) to give 54.5 mg of the titled compound (yield, 82%).

reactant | 3-(di-(t-butoxycarbonyl)aminomethyl)aniline | 50 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(N)C=CC1 | C17H26N2O4
reactant | potassium carbonate | 24 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-6-methoxypyridine | 25 mg | ClC1=NC(=CC=C1)OC | C6H6ClNO
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-(di-(t-butoxycarbonyl)aminomethyl)phenylamino)-6-methoxypyridine | 54.5 mg, 82% | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C=CC1)NC1=NC(=CC=C1)OC | C23H31N3O5
